US04329367
To the suspension of 11.2 g of dl-1-(p-benzyloxyphenyl)-2-(3,3-diphenylpropionamido)-propane in 200 ml of tetrahydrofuran, 150 ml of 1 molar borane in tetrahydrofuran are added dropwise while stirring under nitrogen at 0°. The mixture is refluxed overnight, cooled to 0° and treated dropwise with 150 ml of methanol, followed by 30 ml of concentrated hydrochloric acid. The mixture is evaporated, again treated with 150 ml of methanol, warmed to 50° and evaporated. The resulting white solid is recrystallized from isopropanol containing a little methanol to afford the dl-1-(p-benzyloxyphenyl)-2-(3,3-diphenylpropylamino)-propane hydrochloride, melting at 187°-190°.

reactant | 1-(p-benzyloxyphenyl)-2-(3,3-diphenylpropionamido)-propane | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C)NC(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C31H31NO2
reactant | methanol | 150 ml | CO | CH4O
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | borane | 1 molar, 150 ml | B | BH3
product | 1-(p-benzyloxyphenyl)-2-(3,3-diphenylpropylamino)-propane hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C)NCCC(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C31H33NO.ClH/c1-25(23-26-17-19-30(20-18-26)33-24-27-11-5-2-6-12-27)32-22-21-31(28-13-7-3-8-14-28)29-15-9-4-10-16-29;/h2-20,25,31-32H,21-24H2,1H3;1H
